US07612201B2
N-Butyl lithium (1.6M in hexane; 0.25 ml, 0.4 mmol) was added dropwise to a stirred, cooled (−78° C.) solution of 4-[3-(2,4-Bis-benzyloxy-5-chloro-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrazol-4-yl]-piperazine-1-carboxylic acid tert-butyl ester) 240 mg, 0.33 mmol) in tetrahydrofuran (2 ml), under a nitrogen atmosphere. The mixture was stirred at −78° C. for 10 minutes, then methyl iodide (40 μL; 0.64 mmol) was added. The reaction mixture was warmed to room temperature, then partitioned between water (20 ml) and ethyl acetate (2×20 ml). The combined organic phases were dried over magnesium sulphate, then concentrated in vacuo, and purified on silica cartridge (200 mg) eluting with hexane, then hexane:diethyl ether, 1:1, then diethyl ether gave 4-[3-(2,4-Bis-benzyloxy-5-chloro-phenyl)-5-methyl-1-(toluene-4-sulfonyl)-1H-pyrazol-4-yl]-piperazine-1-carboxylic acid tert-butyl ester (70 mg; 29%)

reactant | 4-[3-(2,4-Bis-benzyloxy-5-chloro-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrazol-4-yl]-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C(=NN(C1)S(=O)(=O)C1=CC=C(C=C1)C)C1=C(C=C(C(=C1)Cl)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C39H41ClN4O6S
reactant | methyl iodide | 0.64 mmol, 40 μL | CI | CH3I
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 4-[3-(2,4-Bis-benzyloxy-5-chloro-phenyl)-5-methyl-1-(toluene-4-sulfonyl)-1H-pyrazol-4-yl]-piperazine-1-carboxylic acid tert-butyl ester | 70 mg, 29% | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C(=NN(C1C)S(=O)(=O)C1=CC=C(C=C1)C)C1=C(C=C(C(=C1)Cl)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C40H43ClN4O6S
